US08053438B2
(1H-BENZO[D]IMIDAZOL-2-YL)(4-(3-(1-(2-FLUOROETHYL)PIPERIDIN-4-YL)PYRAZIN-2-YLOXY)PHENYL)METHANONE
The mixture of (1H-benzo[d]imidazol-2-yl)(4-hydroxyphenyl)methanone (78 mg, 0.326 mmol), 2-fluoro-3-(1-(2-fluoroethyl)piperidin-4-yl)pyrazine (37 mg, 0.163 mmol), and cesium carbonate (106 mg, 0.326 mmol) in DMSO (0.5 mL) was heated at 80° C. for 20 h. The reaction mixture was partitioned between Teac and brine. The aqueous layer was back extracted with Teac (3×) and the combined organic layer was dried (Na2SO4) and concentrated. The crude material was purified by chromatography through a Redi-Sep pre-packed silica gel column (40 g), eluting with a gradient of 0% to 100% Teac in hexane, followed by reverse-phase preparative HPLC using a Phenomenex Gemini column, 10 micron, C18, 110 Å, 150×30 mm, 0.1% TFA in CH3CN/H2O, gradient 5% to 95% over 15 min then neutralization to provide (1H-benzo[d]imidazol-2-yl)(4-(3-(1-(2-fluoroethyl)piperidin-4-yl)pyrazin-2-yloxy)phenyl) as white solid. MS (ESI, pos. ion) m/z: 446.1 (M+1). IC50 (uM) +++++.

reactant | (1H-benzo[d]imidazol-2-yl)(4-hydroxyphenyl)methanone | 0.326 mmol, 78 mg | N1C(=NC2=C1C=CC=C2)C(=O)C2=CC=C(C=C2)O | C14H10N2O2
reactant | 2-fluoro-3-(1-(2-fluoroethyl)piperidin-4-yl)pyrazine | 0.163 mmol, 37 mg | FC1=NC=CN=C1C1CCN(CC1)CCF | C11H15F2N3
reactant | cesium carbonate | 0.326 mmol, 106 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMSO | 0.5 mL | CS(=O)C | C2H6OS
product | (1H-BENZO[D]IMIDAZOL-2-YL)(4-(3-(1-(2-FLUOROETHYL)PIPERIDIN-4-YL)PYRAZIN-2-YLOXY)PHENYL)METHANONE | N1C(=NC2=C1C=CC=C2)C(=O)C2=CC=C(C=C2)OC2=NC=CN=C2C2CCN(CC2)CCF | C25H24FN5O2
